US06528510B1
5-Isopropyl-2-nitro-4-thiocyanato-phenylamine
The title compound was prepared according to General Method 13 using 5-isopropyl-2-nitro-phenylamine (prepared in Example PP-1; 5.4 g, 30 mmol), sodium thiocyanate (14.6 g, 180 mmol), sodium bromide (3.7 g, 35.99 mmol), bromine (5.75 g, 36.0 mmol), and MeOH (100 mL). The crude reaction mixture was purified by flash silica gel chromatography (5%-50% EtOAc in hexanes as eluents). MS(APCI): 238 (M+H).

reactant | 5-isopropyl-2-nitro-phenylamine | 30 mmol, 5.4 g | C(C)(C)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C9H12N2O2
reactant | sodium thiocyanate | 180 mmol, 14.6 g | [S-]C#N.[Na+]
reactant | sodium bromide | 35.99 mmol, 3.7 g | [Br-].[Na+]
reactant | bromine | 36.0 mmol, 5.75 g | BrBr | Br2
solvent | MeOH | 100 mL | CO | CH4O
product | 5-Isopropyl-2-nitro-4-thiocyanato-phenylamine | C(C)(C)C=1C(=CC(=C(C1)N)[N+](=O)[O-])SC#N | C10H11N3O2S
